US06583141B1
) To a stirred and warm (40° C.) mixture of 1,2-dichloro-4-nitrobenzene (0,250 mol), 450 ml of NaOH solution 50%, 0,002 mol of N,N,N-triethylbenzenemethanaminium chloride and 225 ml of tetrahydrofuran is added dropwise a solution of 0,272 mol of 4-chlorobenzeneacetonitrile in 70 ml of tetrahydrofuran. Upon completion, stirring is continued for 5 hours at ±60° C. The reaction mixture is cooled and diluted with water. The whole is acidified with a hydrochloric acid solution and the product is extracted with Et2O. The extract is washed with water, dried, filtered and evaporated, yielding 80 g of 2-chloro-α-(4-chlorophenyl)-4-nitrobenzeneacetonitrile as an oily solution. (interm. 4)

reactant | 1,2-dichloro-4-nitrobenzene | 0,250 mol | ClC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C6H3Cl2NO2
reactant | NaOH | 0,002 mol, 450 ml | [OH-].[Na+]
reactant | 4-chlorobenzeneacetonitrile | 0,272 mol | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | hydrochloric acid | Cl | ClH
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
product | 2-chloro-α-(4-chlorophenyl)-4-nitrobenzeneacetonitrile | 80 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C(C#N)C1=CC=C(C=C1)Cl | C14H8Cl2N2O2
